US04792628
Into a solution of 10 g of 4-methyl-7-hydroxy-1-indanone and 5.3 g of potassium hydroxide in 200 ml of methanol was added 8.2 ml of crotyl bromide, and the mixture was refluxed by heating for 4 hours. The insoluble matters in the reaction mixture were removed by filtration, then the solvent was removed by evaporation. The residue obtained was extracted with chloroform-water, and the chloroform layer was washed with a diluted sodium hydroxide aqueous solution, then washed with water, dried with anhydrous magnesium sulfate, and the solvent was removed by evaporation. The residue obtained was purified by means of a silica gel column chromatography (eluent: n-hexane: dichloromethane=1:1) to obtain 8.72 g of 4-methyl-7-crotyloxy-1-indanone.

reactant | 4-methyl-7-hydroxy-1-indanone | 10 g | CC1=C2CCC(C2=C(C=C1)O)=O | C10H10O2
reactant | potassium hydroxide | 5.3 g | [OH-].[K+]
reactant | crotyl bromide | 8.2 ml | C(C=CC)Br | C4H7Br
solvent | methanol | 200 ml | CO | CH4O
product | 4-methyl-7-crotyloxy-1-indanone | 8.72 g | CC1=C2CCC(C2=C(C=C1)OCC=CC)=O | C14H16O2
